US09227978B2
N-(4,5-Dichloro-2-methoxybenzyl)piperidine-4-carboxamide
The mixture of 4-((4,5-dichloro-2-methoxybenzyl)carbamoyl)piperidine-1-carboxylate (987 mg, 2.37 mmol) in HCl/MeOH (20 mL, 57.2 mmol) was stirred at room temperature for 1 h. Then the solvent was evaporated in vacuo and the residue was dissolved with dichloromethane (5 mL). To this mixture, NaH (85 mg, 3.55 mmol) was added. Then the resulting mixture was stirred at room temperature for 30 min. The solvent was removed under reduced pressure to yield the crude product (800 mg).

reactant | 4-((4,5-dichloro-2-methoxybenzyl)carbamoyl)piperidine-1-carboxylate | 2.37 mmol, 987 mg | ClC1=CC(=C(CNC(=O)C2CCN(CC2)C(=O)[O-])C=C1Cl)OC
reactant | HCl MeOH | 57.2 mmol, 20 mL | Cl.CO
reactant | NaH | 3.55 mmol, 85 mg | [H-].[Na+]
product | N-(4,5-Dichloro-2-methoxybenzyl)piperidine-4-carboxamide | 800 mg | ClC1=CC(=C(CNC(=O)C2CCNCC2)C=C1Cl)OC | C14H18Cl2N2O2
